US08710038B2
N-[4-chloro-3-(trifluoromethyl)phenyl]-N′-[4-(5-phenyl-1H-pyrazol-3-yl)phenyl]urea:
Triethylamine (64 mL, 0.45 mmol) was added to a suspension of N-[4-(3-phenyl-1H-pyrazol-5-yl)aminobenzene (0.102 g, 0.43 mmol) and 4-chloro-3-trifluoromethyl-phenylisocyanate (0.096 g, 0.43 mmol) in anhydrous acetonitrile (2.0 mL) at room temperature. After twelve hours the reaction was concentrated in vacuo and purified on reverse phase HPLC using water-acetonitrile gradient (0.1% TFA) to provide the title compound (23 mg, 16% yield) as a white solid: 1H NMR (400 MHz, DMSO-d6): δ 9.24 (s, 1H), 9.01 (s, 1H), 8.11 (d, J=2.0 Hz, 1H), 7.81 (m, 2H), 7.74 (m, 2H), 7.62 (m, 2H), 7.53 (m, 2H), 7.42 (t, J=8.0 Hz, 2H), 7.32 (t, J=7.6 Hz, 1H), 7.10 (s, 1H); MS (EI) for C23H16ClF3N4O: 457.1 (MH+).

reactant | Triethylamine | 0.45 mmol, 64 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(3-phenyl-1H-pyrazol-5-yl)aminobenzene | 0.43 mmol, 0.102 g | C1(=CC=CC=C1)C1=NNC(=C1)NC1=CC=CC=C1 | C15H13N3
reactant | 4-chloro-3-trifluoromethyl-phenylisocyanate | 0.43 mmol, 0.096 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-N′-[4-(5-phenyl-1H-pyrazol-3-yl)phenyl]urea | 23 mg, 16% yield | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NNC(=C1)C1=CC=CC=C1)C(F)(F)F | C23H16ClF3N4O
